US05206375
A mixture of 6.1 parts of N,N-dimethyl-N'-(4-chloro-3-cyano-5-methylthien-2-yl)-formamidine, 50 parts of ethanol and 2 parts of concentrated hydrochloric acid is heated at the boil for 1 hour. Thereafter, the mixture is added to a dilute aqueous sodium acetate solution, and the precipitate is filtered off under suction and dried. 4 parts (86% of theory) of 2-amino-4-chloro-3-cyano-5-methylthiophene are obtained.

reactant | N,N-dimethyl-N'-(4-chloro-3-cyano-5-methylthien-2-yl)-formamidine | CN(C=NC=1SC(=C(C1C#N)Cl)C)C | C9H10ClN3S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-chloro-3-cyano-5-methylthiophene | 86% | NC=1SC(=C(C1C#N)Cl)C | C6H5ClN2S
